US05792763
1-(3-(1-pyrrolidinyl)propyl)-3-ethylcarbodiimide (PEPC)
To a solution of 31.0 gm (0.156 mole) N-ethyl-N'-3-(1-pyrrolidinyl)propylurea in 500 mL dichloromethane were added 62.6 gm (0.62 mole) triethylamine and the solution was cooled to 0° C. To this solution were then added 59.17 gm (0.31 mole) 4-toluenesulfonyl chloride in 400 mL dichloromethane dropwise at such a rate as to maintain the reaction at 0°-5° C. After the addition was complete, the reaction mixture was warmed to room temperature and then heated to reflux for 4 hours. After cooling to room temperature, the reaction mixture was washed with saturated aqueous potassium carbonate (3×150 mL). The aqueous phases were combined and extracted with dichloromethane. All organic phases were combined and concentrated under reduced pressure. The resultant orange slurry was suspended in 250 mL diethyl ether and the solution decanted off from the solid. The slurry/decantation process was repeated 3 more times. The ether solutions were combined and concentrated under reduced pressure to give 18.9 gm (67%) of the desired product as a crude orange oil. A portion of the oil was distilled under vacuum to give a colorless oil distilling at 78°-82° C. (0.4 mm Hg).

reactant | N-ethyl-N'-3-(1-pyrrolidinyl)propylurea | 0.156 mole, 31.0 gm | C(C)NC(=O)NCCCN1CCCC1 | C10H21N3O
reactant | triethylamine | 0.62 mole, 62.6 gm | C(C)N(CC)CC | C6H15N
reactant | 4-toluenesulfonyl chloride | 0.31 mole, 59.17 gm | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 1-(3-(1-pyrrolidinyl)propyl)-3-ethylcarbodiimide | 18.9 gm, 67% | N1(CCCC1)CCCN=C=NCC | C10H19N3
